US07781478B2
The starting material 2-(3-amino-phenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile (187 mg, 0.642 mmol) is dissolved in anhydrous acetone (3.0 mL). Benzoyl isothiocyanate (107 mg, 0.656 mmol) is added to the solution at room temperature and the mixture is stirred for 17 h during which time a precipitate forms. The precipitate is filtered, washed with acetone and dried to give 264 mg of 1-benzoyl-3-[3-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]-thiourea (90% yield) as a light yellow solid.

reactant | 2-(3-amino-phenyl)-1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 0.642 mmol, 187 mg | NC=1C=C(C=CC1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C18H17N3O
reactant | Benzoyl isothiocyanate | 0.656 mmol, 107 mg | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
solvent | acetone | 3.0 mL | CC(=O)C | C3H6O
product | 1-benzoyl-3-[3-(3-cyano-1-ethyl-6-methoxy-1H-indol-2-yl)-phenyl]-thiourea | 264 mg, 90% yield | C(C1=CC=CC=C1)(=O)NC(=S)NC1=CC(=CC=C1)C=1N(C2=CC(=CC=C2C1C#N)OC)CC | C26H22N4O2S
